US08022222B2
Using the method of Example 3, Step B, 4-methylthiazol-2-amine (11.21 mL, 4.484 mmol), 2-chloro-4-(1-methyl-1H-imidazol-2-ylthio)pyridine (1.012 g, 4.484 mmol), potassium phosphate (0.9518 g, 4.484 mmol), Pd2(dba)3 (0.09332 g, 0.1019 mmol), and 4,5-bis(diphenylphosphino)-9,9-dimethyl-9H-xanthene (0.06486 g, 0.1121 mmol) were reacted to provide 4-(1-methyl-1H-imidazol-2-ylthio)-N-(4-methylthiazol-2-yl)pyridin-2-amine dihydrochloride (0.676 g, 44.07% yield) after salt formation. 1H NMR (d6-DMSO) δ 8.25 (d, 1H), 8.04 (d, 1H), 7.88 (d, 1H), 6.87 (s, 1H), 6.83 (dd, 1H), 6.70 (d, 1H), 3.83 (s, 3H), 2.26 (s, 3H); Mass spectrum (apci) m/z=304.1 (M+H-2HCl).

reactant | 4-methylthiazol-2-amine | 4.484 mmol, 11.21 mL | CC=1N=C(SC1)N | C4H6N2S
reactant | 2-chloro-4-(1-methyl-1H-imidazol-2-ylthio)pyridine | 4.484 mmol, 1.012 g | ClC1=NC=CC(=C1)SC=1N(C=CN1)C | C9H8ClN3S
reactant | potassium phosphate | 4.484 mmol, 0.9518 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
catalyst | Pd2(dba)3 | 0.1019 mmol, 0.09332 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | 4,5-bis(diphenylphosphino)-9,9-dimethyl-9H-xanthene | 0.1121 mmol, 0.06486 g | C1(=CC=CC=C1)P(C1=CC=CC=2C(C3=CC=CC(=C3OC12)P(C1=CC=CC=C1)C1=CC=CC=C1)(C)C)C1=CC=CC=C1 | C39H32OP2
product | 4-(1-methyl-1H-imidazol-2-ylthio)-N-(4-methylthiazol-2-yl)pyridin-2-amine dihydrochloride | 0.676 g, 44.07% yield | Cl.Cl.CN1C(=NC=C1)SC1=CC(=NC=C1)NC=1SC=C(N1)C | InChI=1S/C13H13N5S2.2ClH/c1-9-8-19-12(16-9)17-11-7-10(3-4-14-11)20-13-15-5-6-18(13)2;;/h3-8H,1-2H3,(H,14,16,17);2*1H
